US08067457B2
To the solution of benzyl rel-(3R,4R)-3-(allyloxy)-4-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate (200 mg, 0.53 mmol) in MeOH (5 mL) was added HCl (4.0 M in 1, 2 dioxane, 15 mL) dropwise. The reaction mixture was stirred at room temperature for 6 h, and the reaction mixture was concentrated under reduced pressure and the crude product was used in the following stop without further purification. The crude product was dissolved in DCM (5 mL). To this solution was added TEA (33.7 mg, 1.61 mmol), {[3-(trifluoromethyl)benzoyl]amino}acetic acid (200 mg, 0.81 mmol), EDC (205 mg, 1.07 mmol) and HOBt (145 mg, 1.07 mmol). The reaction mixture was stirred at room temperature overnight. The reaction was quenched by adding water (5 mL). The mixture was extracted with EtOAc (5 mL×3). The organic layers were combined, dried over MgSO4, filtered, concentrated under reduced pressure and subjected to column chromatography (EtOAc:hexanes, 1:3 to 1:1) to afford benzyl rel-(3R,4R)-3-(allyloxy)-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidine-1-carboxylate (222.5 mg (82%).

reactant | benzyl rel-(3R,4R)-3-(allyloxy)-4-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate | 0.53 mmol, 200 mg | C(C=C)O[C@@H]1CN(C[C@H]1NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C20H28N2O5
reactant | HCl | 4.0 M, 15 mL | Cl | ClH
reactant | {[3-(trifluoromethyl)benzoyl]amino}acetic acid | 0.81 mmol, 200 mg | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | EDC | 1.07 mmol, 205 mg
reactant | HOBt | 1.07 mmol, 145 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | MeOH | 5 mL | CO | CH4O
product | benzyl rel-(3R,4R)-3-(allyloxy)-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidine-1-carboxylate | C(C=C)O[C@@H]1CN(C[C@H]1NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C(=O)OCC1=CC=CC=C1 | C25H26F3N3O5
